US07067540B2
To a solution of 4-methyl-1H-pyrazole (1 g, 12 mmol) and DMAP (0.15 g, 1.2 mmol) in CH3CN (20 mL) was added di-tert-butyl dicarbonate (2.8 g, 13 mmol), and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue dissolved in EtOAc. The organic solution was washed with 1 N HCl, water and then brine, dried (MgSO4), filtered, and concentrated under reduced pressure to provide 4-methyl-pyrazole-1-carboxylic acid tert-butyl ester as a light yellow oil (2.2 g, 100%): 1H NMR (300 MHz, CDCl3) δ 7.83 (s, 1H), 7.53 (s, 1H), 2.09 (s, 3H), 1.64 (s, 9H).

reactant | 4-methyl-1H-pyrazole | 12 mmol, 1 g | CC=1C=NNC1 | C4H6N2
reactant | di-tert-butyl dicarbonate | 13 mmol, 2.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.2 mmol, 0.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 4-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 2.2 g, 100% | C(C)(C)(C)OC(=O)N1N=CC(=C1)C | C9H14N2O2
